US08389524B2
(k) (1R)-1-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride
A solution of 1,1-dimethylethyl (1-{[(1R)-3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl}-4-piperidinyl)carbamate (0.57 g, 1.420 mmol) in chloroform (7 ml) at room temperature was treated with 4M HCl in 1,4-dioxane (7 ml). A solid precipitated out and the mixture was stirred at room temperature. After 0.5 h some methanol was added to dissolve most of the solid, followed by toluene and all the solvents were removed to afford the product as a yellow solid (0.53 g, 100%).

reactant | 1,1-dimethylethyl (1-{[(1R)-3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl}-4-piperidinyl)carbamate | 1.420 mmol, 0.57 g | O=C1N2C[C@H](N3C(C=CC(N=C1)=C32)=O)CN3CCC(CC3)NC(OC(C)(C)C)=O | C20H27N5O4
reactant | HCl | 4M | Cl | ClH
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | (1R)-1-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | 0.53 g, 100% | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O | InChI=1S/C15H19N5O2.2ClH/c16-10-3-5-18(6-4-10)8-11-9-19-14(22)7-17-12-1-2-13(21)20(11)15(12)19;;/h1-2,7,10-11H,3-6,8-9,16H2;2*1H/t11-;;/m1../s1
